US04321272
1-[[2-(2-(4-n-butoxyphenyl)ethyl)-4-n-butyl-1,3-dioxolan-2-yl]methyl]imidazole.
Substituting 4-methylpentane-1,2-diol for ethylene glycol in part (a) of this example there is prepared 1-[[2-(2-(4-chlorophenyl)ethyl)-4-(2-methylpropyl)-1,3-dioxolan-2-yl]methyl]imidazole. By substituting the appropriate ketones for 1-[4-(4-chlorophenyl)butan-2-on-1-yl]imidazole and substituting 4-methylpentane-1,2-diol for ethylene glycol in part (a) of this example the following compounds are prepared:

reactant | 1-[[2-(2-(4-chlorophenyl)ethyl)-4-(2-methylpropyl)-1,3-dioxolan-2-yl]methyl]imidazole | ClC1=CC=C(C=C1)CCC1(OCC(O1)CC(C)C)CN1C=NC=C1 | C19H25ClN2O2
reactant | 1-[4-(4-chlorophenyl)butan-2-on-1-yl]imidazole | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)=O | C13H13ClN2O
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 1-[[2-(2-(4-n-butoxyphenyl)ethyl)-4-n-butyl-1,3-dioxolan-2-yl]methyl]imidazole | C(CCC)OC1=CC=C(C=C1)CCC1(OCC(O1)CCCC)CN1C=NC=C1 | C23H34N2O3
